* Z:\home\sbecht\ultra-efficient-adc\analogSwitchLDS.asc
M1 N003 Iin? Vdd Vdd pfet l=pmosL w=pmosW
M2 N003 C1? Vdd Vdd pfet l=pmosL w=pmosW
M3 N004 Iin? Vdd Vdd pfet l=pmosL w=pmosW
M4 N004 C2? Vdd Vdd pfet l=pmosL w=pmosW
M5 N007 N003 Vdd Vdd pfet l=pmosL w=pmosW
M6 N007 N004 Vdd Vdd pfet l=pmosL w=pmosW
M7 N003 Iin? P001 neg nfet l=nmosL w=nmosW
M8 N004 Iin? P002 neg nfet l=nmosL w=nmosW
M9 N007 N004 P003 neg nfet l=nmosL w=nmosW
M10 P001 C1? neg neg nfet l=nmosL w=nmosW
M11 P002 C2? neg neg nfet l=nmosL w=nmosW
M12 P003 N003 neg neg nfet l=nmosL w=nmosW
M13 N001 Iin? Vdd Vdd pfet l=pmosL w=pmosW
M14 N001 Iin? neg neg nfet l=nmosL w=nmosW
M15 N005 C1? Vdd Vdd pfet l=pmosL w=pmosW
M16 N005 N001 Vdd Vdd pfet l=pmosL w=pmosW
M17 N005 N001 P004 neg nfet l=nmosL w=nmosW
M18 P004 C1? neg neg nfet l=nmosL w=nmosW
M19 N002 C2? Vdd Vdd pfet l=pmosL w=pmosW
M20 N002 N001 Vdd Vdd pfet l=pmosL w=pmosW
M21 N002 N001 P005 neg nfet l=nmosL w=nmosW
M22 P005 C2? neg neg nfet l=nmosL w=nmosW
M23 N006 N005 Vdd Vdd pfet l=pmosL w=pmosW
M24 N006 N002 Vdd Vdd pfet l=pmosL w=pmosW
M25 N006 N002 P006 neg nfet l=nmosL w=nmosW
M26 P006 N005 neg neg nfet l=nmosL w=nmosW
M27 N008 N003 Iin Vdd pfet l={2*A} w={6*A}
M28 N009 N004 Iin Vdd pfet l={2*A} w={6*A}
M29 neg N007 Iin Vdd pfet l={2*A} w={6*A}
M30 N008 N005 Iref Vdd pfet l={2*A} w={6*A}
M31 N009 N002 Iref Vdd pfet l={2*A} w={6*A}
M32 neg N006 Iref Vdd pfet l={2*A} w={6*A}
M33 N008 CLC1 neg neg nfet l={2*A} w={24*A}
M34 neg CLC2 N009 neg nfet l={2*A} w={24*A}
C1 N008 neg C
C2 N009 neg C
.param A=0.3u
.param pmosL=.9u
.param pmosW=6u
.param nmosL=.9u
.param nmosW=3u
.backanno
.end
